US06911463B2
A mixture of [2-(7-benzyloxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester (20.75 g, 52.6 mmol), 5% Pd/C (1.00 g, 5 wt %), and 3A ethanol (200 mL) is pressurized to 55 psig with H2, and is heated to 50° C. After 40 minutes, the slurry is filtered, and the filtrate is concentrated to give 15.41 g of [2-(7-hydroxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester (96%). FDMS m/e=305 (M++1).

reactant | [2-(7-benzyloxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester | 52.6 mmol, 20.75 g | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)OCC1=CC=CC=C1)(C)C)=O | C24H30N2O3
catalyst | Pd/C | 1.00 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | [2-(7-hydroxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester | 15.41 g, 96% | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)O)(C)C)=O | C17H24N2O3
